US07795288B2
4-[5-(3-Bromo-phenyl)-thiazol-2-ylamino]-phenol
The title compound is prepared as described in Example 12 (Procedure B) for 4-(5-thiophen-3-yl-thiazol-2-yl-amino)-phenol but starting from (3-bromophenyl)-acetaldehyde. The title compound: ES-MS: 348.9 [M+2]+; single peak at tR=3.92 min (System 2); Rf=0.47 (CH2Cl2/MeOH, 90/10).

reactant | 4-(5-thiophen-3-yl-thiazol-2-yl-amino)-phenol | S1C=C(C=C1)C1=CN=C(S1)NC1=CC=C(C=C1)O | C13H10N2OS2
reactant | (3-bromophenyl)-acetaldehyde | BrC=1C=C(C=CC1)CC=O | C8H7BrO
solvent | CH2Cl2 MeOH | C(Cl)Cl.CO
product | 4-[5-(3-Bromo-phenyl)-thiazol-2-ylamino]-phenol | BrC=1C=C(C=CC1)C1=CN=C(S1)NC1=CC=C(C=C1)O | C15H11BrN2OS
